US07691861B2
Preparation of (2-Chloro-6-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-6-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester (3.39 g, 12.80 mmol) is dissolved under an atmosphere of argon in pyridine (35 ml). After cooling to 0° C., trifluoromethanesulfonic acid anhydride (2.32 ml, 14.08 mmol) is added dropwise during 15 minutes. After stirring at 0° C. for 15 minutes and at RT for 1 h, TLC analysis indicates complete consumption of starting material. The reaction mixture is poured into 1 M aqueous NaHCO3 solution. After extraction with EtOAc, washing with brine and drying of the organic layer over Na2SO4, concentration yields the crude reaction product. Purification by FCC (hexane/EtOAc 4:1) affords the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.48 (t, J=9 Hz, 3H), 4.41 (q, J=9 Hz, 2H), 4.52 (s, 2H), 7.68 (d, J=10 Hz, 1H), 7.82 (d, J=10 Hz, 1H), 7.98-8.00 (m, 2H), 8.27 (d, J=10 Hz, 1H).

reactant | (2-Chloro-6-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester | 12.80 mmol, 3.39 g | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)O)Cl)=O | C14H13ClO3
reactant | trifluoromethanesulfonic acid anhydride | 14.08 mmol, 2.32 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | (2-Chloro-6-trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)Cl)=O | C15H12ClF3O5S
